US04510149
1,2,3,4-tetrahydro-2-(1-imidazolyl)-naphthalene hydrochloride, which treated with the stoichiometric amount of NaHCO3, gave 1,2,3,4-tetrahydro-2-(1-imidazolyl)naphthalene.

reactant | 1,2,3,4-tetrahydro-2-(1-imidazolyl)-naphthalene hydrochloride | Cl.N1(C=NC=C1)C1CC2=CC=CC=C2CC1
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1,2,3,4-tetrahydro-2-(1-imidazolyl)naphthalene | N1(C=NC=C1)C1CC2=CC=CC=C2CC1 | C13H14N2
